US08580762B2
Step 2: Synthesis of methyl3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutanecarboxylate
A solution of methyl 3-oxocyclobutanecarboxylate (1.28 g crude), 9-((3aR,4R,6R,6aR)-2,2-dimethyl-6-((methylamino)methyl)tetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-amine (2.0 g, 6.25 mmol) (Townsend et al Org Lett 2009, 11, 2976-2679) and Ti(iPrO)4 (1.78 g, 6.25 mmol) in MeOH (50 mL) was stirred at 45° C. for 2 h, then NaCNBH3 (0.79 g, 12.50 mmol) was added. The reaction was stirred at RT overnight. The reaction was quenched with aq. sat. NaHCO3 (40 mL), filtered, extracted with DCM (40 mL×3), dried over Na2SO4 and concentrated. The residue was purified by SGC (DCM:MeOH=12:1) to obtain title compound (1.7 g, Yield 63%). 1H NMR (500 MHz, MeOD): δH 8.28-8.27 (m, 1H), 8.21 (s, 1H), 6.20-6.18 (m, 1H), 5.52 (dd, J=1.5, 6.0 Hz, 1H), 5.00 (dd, J=3.0, 6.0 Hz, 1H), 5.33 (brs, 1H), 3.65-3.63 (m, 3H), 2.77-2.55 (m, 4H), 2.19-2.11 (m, 5H), 2.00-1.82 (m, 2H), 1.59 (s, 3H), 1.38 (s, 3H) ppm; ESI-MS (m/z): 433.2 [M+1]+.

reactant | methyl 3-oxocyclobutanecarboxylate | 1.28 g | O=C1CC(C1)C(=O)OC | C6H8O3
reactant | 9-((3aR,4R,6R,6aR)-2,2-dimethyl-6-((methylamino)methyl)tetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-amine | 6.25 mmol, 2.0 g | CC1(O[C@@H]2[C@H](O1)[C@H](O[C@H]2N2C1=NC=NC(=C1N=C2)N)CNC)C | C14H20N6O3
reactant | NaCNBH3 | 12.50 mmol, 0.79 g | [BH3-]C#N.[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | methyl3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutanecarboxylate | 1.7 g, Yield 63% | COC(=O)C1CC(C1)N(C)C[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)N | C20H28N6O5
